US06001839
In a similar manner to Example 9, a mixture of 4-amino-5-(4-iodophenyl)-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine (100 mg), potassium carbonate (104 mg), N-methyl-(4-acetamido)phenol (120 mg), 8-hydroxyquinoline (8 mg), copper (I) chloride (5 mg) and dimethylacetamide (8 ml) gave N-{4-[4-(4-amino-7-tert-butylpyrrolo[2,3-d]-pyrimidin-5-yl)phenoxy]phenyl}-N-methylacetamide. This structure was confirmed by 1H nmr.

reactant | 4-amino-5-(4-iodophenyl)-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine | 100 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)I)C(C)(C)C | C16H17IN4
reactant | potassium carbonate | 104 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-(4-acetamido)phenol | 120 mg | CN(C(C)=O)C1=CC=C(C=C1)O | C9H11NO2
reactant | 8-hydroxyquinoline | 8 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
catalyst | copper (I) chloride | 5 mg | [Cu]Cl
solvent | dimethylacetamide | 8 ml | CC(=O)N(C)C | C4H9NO
product | N-{4-[4-(4-amino-7-tert-butylpyrrolo[2,3-d]-pyrimidin-5-yl)phenoxy]phenyl}-N-methylacetamide | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=CC=C(C=C1)N(C(C)=O)C)C=C2)C(C)(C)C | C25H27N5O2
